US07132425B2
A mixture of 2-amino-5-bromopyrazine (500 mg, 2.874 mmol), dichlorobis(triphenylphosphine)palladium(II) (290 mg, 0.413 mmol), 2-thiopheneboronic acid (500 mg, 3.907 mmol), and a saturated aqueous sodium carbonate solution (4 mL) in ethylene glycol dimethyl ether (8 mL) and ethanol (8 mL) was heated under reflux overnight. The reaction mixture was cooled, diluted with ethyl acetate, water, and a saturated aqueous sodium chloride solution. After mixing, the layers were separated. The aqueous layer was extracted with ethyl acetate. The combined organic layers was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica 1/1 hexanes/ethyl acetate) afforded 5-thiophen-2-yl-pyrazin-2-ylamine (267 mg, 52.4%) as a yellow solid: EI-HRMS m/e calcd for C8H7N3S (M+) 177.0361, found 177.0355.

reactant | 2-amino-5-bromopyrazine | 2.874 mmol, 500 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 2-thiopheneboronic acid | 3.907 mmol, 500 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 4 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethylene glycol dimethyl ether | 8 mL | COCCOC | C4H10O2
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.413 mmol, 290 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-thiophen-2-yl-pyrazin-2-ylamine | 267 mg, 52.4% | S1C(=CC=C1)C=1N=CC(=NC1)N | C8H7N3S
